US08754079B2
XXXXIV.1. 4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-1-nitro-benzene
Prepared analogously to III.1 from 926 μl 2,4-difluor-nitrobenzene and 1 g (1S,2S)-2-methoxycyclohexanol.

reactant | 2,4-difluor-nitrobenzene | 926 μl | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | (1S,2S)-2-methoxycyclohexanol | 1 g | CO[C@@H]1[C@H](CCCC1)O | C7H14O2
product | 4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-1-nitro-benzene | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@@H]1[C@H](CCCC1)OC | C13H16FNO4
